US05169838
Preparation of 7-acetyl-3-bromo-2-methyl-4H-1-benzopyran-4-one
77.5 ml of a 10% solution of bromine in acetic acid are added at 60° C., under an inert atmosphere, to a solution of 8.8 g (40.10-3 mol) of 7-acetyl-2-methyl-4H-1-benzopyran-4-one in 80 ml of acetic acid. The reaction mixture is kept at 60° C. for 2 hours and is then left to stand for 12 hours. It is concentrated under reduced pressure and the residue is then neutralized with a saturated solution of sodium bicarbonate. After extraction with ethyl acetate, the organic phase is washed with water until the pH of the washings is neutral, dried over magnesium sulfate and concentrated to dryness. After chromatography on silica gel using a methylene chloride/methanol mixture (12/1 v/v) as the eluent, 2.3 g (yield: 19%) of the expected product are obtained.

reactant | bromine | BrBr | Br2
reactant | 7-acetyl-2-methyl-4H-1-benzopyran-4-one | 40.10-3 mol, 8.8 g | C(C)(=O)C1=CC2=C(C(C=C(O2)C)=O)C=C1 | C12H10O3
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 7-acetyl-3-bromo-2-methyl-4H-1-benzopyran-4-one | 2.3 g, yield: 19% | C(C)(=O)C1=CC2=C(C(C(=C(O2)C)Br)=O)C=C1 | C12H9BrO3
